US05391556
N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-3-methyl-1,2,3,4-tetrahydro-quinoline-8-sulphonamide
Prepared by catalytic hydrogenation of N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxoethyl]-3-methyl-quinoline-8-sulphonamide in the presence of palladium/charcoal in 50% acetic acid and under a hydrogen pressure of 3 bar analogously to Example 35.

reactant | N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxoethyl]-3-methyl-quinoline-8-sulphonamide | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C=2C=CC=C1C=C(C=NC21)C | C26H29N5O3S
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | [Pd] | Pd
product | N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-3-methyl-1,2,3,4-tetrahydro-quinoline-8-sulphonamide | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C=2C=CC=C1CC(CNC21)C | C26H33N5O3S
